US07368580B2
Introduce into a reactor 200 g of benzyl (2S)-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate and 1.5 litres of dichloromethane, and then bring the temperature of the reaction mixture to 0° C. and add 201 ml of diisopropylethylamine, followed by 202 g of (1R)-2-chloro-1-methyl-2-oxoethyl p-toluenesulphonate. Subsequently, bring the mixture to ambient temperature. After stirring for 1 hour at that temperature, wash the mixture with water. The solution of benzyl (2S)-1-[(2R)-2-{p-toluenesulphonyloxy}propionyl]-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate so obtained is used as it is in the following Step.

reactant | benzyl (2S)-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate | 200 g | N1[C@@H](CC=2CCCCC12)C(=O)OCC1=CC=CC=C1 | C16H19NO2
reactant | diisopropylethylamine | 201 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-2-chloro-1-methyl-2-oxoethyl p-toluenesulphonate | 202 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](C(=O)Cl)C)C | C10H11ClO4S
solvent | dichloromethane | 1.5 litres | ClCCl | CH2Cl2
product | benzyl (2S)-1-[(2R)-2-{p-toluenesulphonyloxy}propionyl]-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](C(=O)N1[C@@H](CC=2CCCCC12)C(=O)OCC1=CC=CC=C1)C)C | C26H29NO6S
